Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
flexible sigmoidoscopy ___
 
History of Present Illness:
___ year old female with history of erythroleukemia evolving out 
of MDS who is day +296 from allogeneic transplantation from an 
HLA matched sibling donor with
pentostatin/TBI. She presents today with diarrhea that started 
on ___, 3 days prior to admission.  She states that she had 
been in her usual state of health until 3 weeks ago when her 
stomach started feeling unrested.  She did not have any other 
symptoms until three days prior to admission when she had 
diarrhea.  She does not have cramping before episodes, no blood 
or mucus in the stool.  She had 3 bowel movements that evening.  
The following evening she had about 5 small watery bowel 
movements.  This morning, early she reports she had about 3 
watery bowel movements.  She has not had any nausea, vomiting, 
or abdominal pain.  She has not traveled or had sick contacts or 
eaten unusual food.  Her Tmax measured at home was 99.5 on 
___ and ___. No new meds or foods
.
ROS:Denies shortness of breath, cough, chest pain, myalgias
 
Past Medical History:
-Onc-
diagnosed in ___ on routine blood work that showed 
pancytopenia, BM Bx showed myelodysplasia with no cytogenetic 
abnormalities, repeat BM Bx showed acute erythrolekemia
admitted ___ for induction chemotherapy with 7+3 cytarabine and 

idarubicin, which she tolerated well, Day 14 bone marrow 
showed zero blasts, consistent with complete ablation
Underwent allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___
mild GVHD, skin (mouth)
-Hypertension
-Hypercholesterolemia
-GERD
-Diet-controlled DM
-Diverticulosis, noted on colonoscopy ___ years ago
-Occasional bronchospasm treated with Primatene Mist
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. Has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Vitals: T 98.2  HR 95  BP 128/74 RR 18 O2 sat 97% RA  
Gen: Well appearing. NAD.  
HEENT: PERRL. Pink, moist oral mucosa without lesions. white 
plaques on posterior aspect of right hard palate  
LN: No anterior/posterior cervical, supraclavicular LAD.  
CV: RRR. Normal S1 and S2. No M/R/G.  
Pulm: CTA bilaterally. No egophony appreciated.
Abd: Soft, nontender, nondistended. No masses or organomegaly. 
No rebound or guarding  
Ext: No edema. 
 
Pertinent Results:
ADMISSION LABS:

___ 02:30PM BLOOD WBC-7.7 RBC-4.47 Hgb-15.3 Hct-44.7 
MCV-100* MCH-34.3* MCHC-34.3 RDW-13.5 Plt ___
___ 02:30PM BLOOD Neuts-51 Bands-0 ___ Monos-10 Eos-1 
Baso-1 Atyps-3* ___ Myelos-0
___ 02:30PM BLOOD Plt Smr-NORMAL Plt ___
___ 02:30PM BLOOD ___ ___
___ 02:30PM BLOOD UreaN-14 Creat-1.4* Na-139 K-5.0 Cl-105 
HCO3-24 AnGap-15
___ 02:30PM BLOOD ALT-48* AST-45* LD(LDH)-221 AlkPhos-83 
TotBili-0.6 DirBili-0.2 IndBili-0.4
___ 02:30PM BLOOD Phos-3.3 Mg-1.8 UricAcd-7.3*
--------------------
SPECIMEN SUBMITTED: SIGMOID BX.

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  GASTRIC BX'S, 2. 
  ___  Bone marrow for immunophenotyping. 
  ___  BONE MARROW BX. 
  ___  Bone marrow for immunophenotyping. 
(and more) 

DIAGNOSIS: 

Colonic mucosal biopsies, sigmoid: 

Occasional crypt drop outs, non-specific.
No apoptosis or viral cytopathic changes seen; immunostain for 
CMV is negative with satisfactory control; immunostain for 
herpes simplex virus is non-contributory due to high background.
 

Note: Dr. ___ was informed of the preliminary diagnosis of 
suggestive of/favor graft-versus-host disease on the phone by 
Dr. ___ at 12:10 pm on ___.  Dr. ___ was informed 
of the final diagnosis of no definitive diagnosis of 
graft-versus-host disease on the phone by Dr. ___ 1:20 pm on 
___ after the case has been reviewed by Drs. ___ and 
T. ___.
d/c labs

___ 08:20AM BLOOD WBC-6.4# RBC-3.51* Hgb-12.1 Hct-34.1* 
MCV-97 MCH-34.6* MCHC-35.5* RDW-13.6 Plt ___
___ 08:20AM BLOOD ___ PTT-25.1 ___
___ 08:20AM BLOOD Glucose-142* UreaN-12 Creat-0.9 Na-140 
K-3.6 Cl-110* HCO3-24 AnGap-10
___ 08:20AM BLOOD ALT-31 AST-21 LD(LDH)-158 AlkPhos-59 
TotBili-0.4
___ 08:20AM BLOOD Albumin-3.3* Calcium-8.6 Phos-2.4* Mg-1.8 
UricAcd-6.1*
 
Brief Hospital Course:
___ year old female with history of erythroleukemia evolving out 
of MDS who is day +296 from allogeneic transplantation from an 
HLA matched sibling donor with
pentostatin/TBI who is presenting with diarrhea.
.
# Diarrhea

The differential included infectious (viral, C.diff), GVHD.  She 
has a history of C.diff treated with PO vancomycin and was 
chronically positive, determined to be a carrier of C.diff.  She 
had no sick contacts (eg Noro or ___
no recent travel history.  She has no other signs of GVHD except 
that she did have some oral mucosal manifestations but they are 
stable-she had stopped prednisone 9 days ago. On admission she 
received IV fluids, clear liquid dinner and was NPO after in 
anticipation of a flexible sigmoidoscopy.  C.diff and stool 
cultures were sent including Rota and Noro virus, all were 
negative or pending at time of discharge. She had a flexible 
sigmoidoscopy on ___ and biopsies were sent for pathology which 
were not sufficient for a diagnosis of GVHD, patient had been 
started on IV steroids and transitioned to Prednisone 30mg 
daily. Her diarrhea completely resolved. She was discharged on 
30mg prednisone which will be weaned at her outpatient oncology 
appointment.
.
#s/p MRD for erythroleukemia-She continued taking her 
fluconazole and acyclovir.  She was not neutropenic with an ANC 
of 3410.  Her last CMV (___) neg, one drawn ___ is negative.
 
Medications on Admission:
ACYCLOVIR 400 mg--1 tablet(s) by mouth three times a day
ATIVAN 0.5 ___ tablet(s) by mouth q4-6 hours as needed for
nausea, anxiety, insomnia
FLUCONAZOLE 200 mg--1 tablet(s) by mouth once a day
PROTONIX 40 mg--1 tablet(s) by mouth twice a day
Pentamidine 300 mg--300 mg inh qmonth x 6 months
Docusate 100mg q day prn constipation
 
Discharge Medications:
1. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).  
2. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for nausea, anxiety, insomnia.  
3. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
5. Prednisone 10 mg Tablet Sig: Three (3) Tablet PO once a day: 
will be tapered by dr. ___.
Disp:*90 Tablet(s)* Refills:*0*
6. Pentamidine 300 mg Recon Soln Sig: One (1)  Inhalation once a 
month for 6 months.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea- unclear etiology

 
Discharge Condition:
stable

 
Discharge Instructions:
You are admitted with diarrhea which was found to be due to GVHD 
on sigmoidoscopy. You are being discharged on Prednisone 30mg 
once daily which will be decreased at your appointment with Dr. 
___ on ___. Please call the oncology office or present 
to the ER if your symptoms worsen or you have any concerning 
symptoms.
 
Followup Instructions:
___